US04242519
Methyl α-methylthio-α-(6-methoxy-2-naphthyl)acetate (420 mg) was dissolved in 5 ml of dimethylformamide, and 60 mg (65% content) of sodium hydride was added. The mixture was stirred at room temperature for 10 minutes. Then, 0.20 ml of methyl iodide was added, and the mixture was stirred at room temperature for 30 minutes. An aqueous solution of ammonium chloride (0.5 g/30 ml) was added and the mixture was extracted three times with 20 ml of diethyl ether. The organic layer was washed twice with 10 ml of water and dried over anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure, and the residue was chromatographed on a silica gel using benzene as an eluent to afford 378 mg of methyl α-methylthio-α-(6-methoxy-2-naphthyl)propionate in a yield of 86%.

reactant | Methyl α-methylthio-α-(6-methoxy-2-naphthyl)acetate | 420 mg | CSC(C(=O)OC)C1=CC2=CC=C(C=C2C=C1)OC | C15H16O3S
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | methyl iodide | 0.20 ml | CI | CH3I
reactant | ammonium chloride | 30 ml, 0.5 g | [Cl-].[NH4+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | methyl α-methylthio-α-(6-methoxy-2-naphthyl)propionate | 378 mg, yield of 86% | CSC(C(=O)OC)(C)C1=CC2=CC=C(C=C2C=C1)OC | C16H18O3S
